US05942517
A mixture of 3,4-methylenedioxybenzaldehyde (15.013 g, 0.1 mol), benzyl acetoacetate (20.18 g, 0.105 mol), piperidine (0.41 g, 476 mL, 4.8 mmol), and acetic acid (0.288 g, 274 mL, 4.8 mmol) in 2-propanol (500 mL) was stirred at room temperature for 48 hours. The white solid, benzyl 2-{(3,4-methylenedioxyphenyl)methylene}-3-oxobutyrate, formed was filtered, washed with 2-propanol (2×50 mL) and dried (29.84 g, 92%); m.p. 137-138° C.

reactant | 3,4-methylenedioxybenzaldehyde | 0.1 mol, 15.013 g | C1OC=2C=C(C=O)C=CC2O1 | C8H6O3
reactant | benzyl acetoacetate | 0.105 mol, 20.18 g | C(CC(=O)C)(=O)OCC1=CC=CC=C1 | C11H12O3
reactant | piperidine | 4.8 mmol, 476 mL, 0.41 g | N1CCCCC1 | C5H11N
reactant | acetic acid | 4.8 mmol, 274 mL, 0.288 g | C(C)(=O)O | C2H4O2
solvent | 2-propanol | 500 mL | CC(C)O | C3H8O
product | benzyl 2-{(3,4-methylenedioxyphenyl)methylene}-3-oxobutyrate | C1OC=2C=C(C=CC2O1)C=C(C(=O)OCC1=CC=CC=C1)C(C)=O | C19H16O5
